US04814337
In 100 ml of formid acid, a reaction of 23.0 g of 5-bromo-2,4-dichloropyrimidine and 10.0 g of potassium thiocyanate was conducted at room temperature (20° C.) for 4 hours in a similar manner as Synthesis Example 1. Then, the reaction mixture was treated in a similar procedure as Synthesis Example 1, there was obtained a 80.0% yield of 5-bromo-2-chloro-4-thiocyanopyrimidine, m.p. 166.5°-170° C.

reactant | 5-bromo-2,4-dichloropyrimidine | 23.0 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | potassium thiocyanate | 10.0 g | [S-]C#N.[K+]
product | 5-bromo-2-chloro-4-thiocyanopyrimidine | 80.0% yield | BrC=1C(=NC(=NC1)Cl)SC#N | C5HBrClN3S
